US04129654
3-Isopropyl-5,7-dimethyl-5H,7H-isoxazolo[3,4-d]pyrimidine-4,6-dione
A mixture of 5 g of 1,3-dimethyl-6-hydroxyaminouracil, 30 ml of xylene and 10 ml of isobutyric anhydride is reacted in the same manner as Example 1 to obtain 3.2 g of captioned compound as colorless needles, melting point: 106° C.

reactant | 1,3-dimethyl-6-hydroxyaminouracil | 5 g | CN1C(=O)N(C(=O)C=C1NO)C | C6H9N3O3
reactant | isobutyric anhydride | 10 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-Isopropyl-5,7-dimethyl-5H,7H-isoxazolo[3,4-d]pyrimidine-4,6-dione | 3.2 g | C(C)(C)C=1ON=C2N(C(N(C(C21)=O)C)=O)C | C10H13N3O3
